US04755535
A. Preparation of 3-Bromo-1-dodecylazacycloheptan-2-one
To a cold solution of 107 g (0.38 mol) of 1-dodecylazacycloheptan-2-one, in CHCl3 was added 159.7 g (0.77 mol) of PCl5, keeping the temperature between 1°-4° C. After 2 hours, a solution of 123.3 g (0.77 mol) of bromine in CHCl3 was added, and the mixture was stirred for 18 hours at room temperature. After removing the solvent and excess bromine by vacuum distillation, the residue was dissolved in CH2Cl2, washed with sat. Na2S2O5, dried over MgSO4, and concentrated in vacuo to give a crude oil. Purification by flash chromatography (silica gel; 1:1 ether/petroleum ether V/V) gave pure product.

reactant | 1-dodecylazacycloheptan-2-one | 0.38 mol, 107 g | C(CCCCCCCCCCC)N1C(CCCCC1)=O | C18H35NO
reactant | PCl5 | 0.77 mol, 159.7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | bromine | 0.77 mol, 123.3 g | BrBr | Br2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-1-dodecylazacycloheptan-2-one | BrC1C(N(CCCC1)CCCCCCCCCCCC)=O | C18H34BrNO
